US06057329
6-Methyl-N-(3,4,5-trimethoxyphenyl)-benzo[h]-5,6-dihydroquinazoline-2-amine
The 3,4-dihydro-2-(dimethylaminomethylene)-4-methyl-1(2H)-naphthalenone starting material was prepared from 4-methyl-1-tetralone (4.0 g, 25 mmol) and N,N-dimethylformamide diethyl acetal (17 ml, 100 mmol) to give the desired product as a thick yellow oil (4.53 g). δH (CDCl3) 8.03 (1H, dd, J 7.7, 1.5 Hz), 7.77 (1H, s), 7.39 (1H, td, J 7.4, 1.5 Hz), 7.29 (1H, td, J 7.5, 1.3 Hz), 7.20 (1H, dm, J 7.5 Hz), 3.12 (6H, s), 3.10-2.90 (2H, m), 2.75 (1H, apparent q, 6.9 Hz) and 1.30 (3H, d, J 6.9 Hz). MS (ES+) 216 (MH+, 100%).

reactant | 4-methyl-1-tetralone | 25 mmol, 4.0 g | CC1CCC(C2=CC=CC=C12)=O | C11H12O
reactant | N,N-dimethylformamide diethyl acetal | 100 mmol, 17 ml | C(C)OC(N(C)C)OCC | C7H17NO2
product | 3,4-dihydro-2-(dimethylaminomethylene)-4-methyl-1(2H)-naphthalenone | CN(C)C=C1C(C2=CC=CC=C2C(C1)C)=O | C14H17NO
